US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-allyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride
3.1 gm (0.007 mol) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane were refluxed for 21 hours with 1.0 gm (0.007 mol) of potassium carbonate and 0.6 ml (0.007 mol) of allyl bromide in 100 ml of chloroform. Subsequently, the organic phase was extracted with water, dried, evaporated in vacuo, and the residue was purified on an aluminum oxide column (300 gm neutral, activity III) with methylene chloride containing 2% of acetone as the eluant. Subsequently the hydrochloride was precipitated.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | 0.007 mol, 3.1 gm | COC1=CC2=C(CC(N(CC2)CCCNCCC2=CC(=C(C=C2)OC)OC)=O)C=C1OC | C25H34N2O5
reactant | potassium carbonate | 0.007 mol, 1.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.007 mol, 0.6 ml | C(C=C)Br | C3H5Br
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-allyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)CC=C)=O)C=C1OC | InChI=1S/C28H38N2O5.ClH/c1-6-12-29(15-10-21-8-9-24(32-2)25(17-21)33-3)13-7-14-30-16-11-22-18-26(34-4)27(35-5)19-23(22)20-28(30)31;/h6,8-9,17-19H,1,7,10-16,20H2,2-5H3;1H
